US08278440B2
tert-butyl[2-(3,4-dimethoxyphenyl)ethyl]carbamate
Di-tert-butyl dicarbonate (12 g; 55.2 mmol) is added to a solution of 2-(3,4-dimethoxy-phenyl)ethylamine (10 g; 55.2 mmol) in dichloromethane (200 mL). After being in contact for 1 hour at ambient temperature, the reaction mixture is concentrated under reduced pressure. The residue is taken up in pentane (100 mL) and, after being in contact for 1 hour at ambient temperature, the suspension is filtered over a frit. 13.2 g of the title product are obtained in the form of a solid.

reactant | Di-tert-butyl dicarbonate | 55.2 mmol, 12 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-(3,4-dimethoxy-phenyl)ethylamine | 55.2 mmol, 10 g | COC=1C=C(C=CC1OC)CCN | C10H15NO2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | tert-butyl[2-(3,4-dimethoxyphenyl)ethyl]carbamate | 13.2 g, Yield=85% | C(C)(C)(C)OC(NCCC1=CC(=C(C=C1)OC)OC)=O | C15H23NO4
